* Z:\home\fritz\Nextcloud\Elektroniknode\kneippometer\Simulationen\7-Segment-Matrix-3.asc
M1 N4 0 0 0 IRFZ24
M2 N3 0 0 0 IRFZ24
M3 N2 0 0 0 IRFZ24
M4 N1 0 0 0 IRFZ24
R1 N005 COL1 4.2
R2 N006 COL2 4.3
R3 N003 COL1 4
R4 N004 COL2 4.1
M5 COL1 0 0 0 IRFZ24
M6 COL2 V+ 0 0 IRFZ24
M7 N1 V+ V+ V+ IRF7343P
M8 N2 V+ V+ V+ IRF7343P
M9 N3 0 V+ V+ IRF7343P
M10 N4 0 V+ V+ IRF7343P
M11 COL1 0 V+ V+ IRF7343P
M12 COL2 V+ V+ V+ IRF7343P
V1 N001 0 6
L1 N003 N3 10m
L2 N004 N4 10m
L3 N005 N1 10m
L4 N006 N2 10m
M13 V+ N002 N001 N001 IRF7343P
V2 N002 0 PULSE(6 0 1m 100n 100n 10m)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Programme\LTC\LTspiceIV\lib\cmp\standard.mos
;op
.tran 20m
.backanno
.end
